US06992087B2
Preparation of 3,6-diethyl-N-(1,2,3,4-tetrahydronaphthalen-1-yl)pyrazin-2-amine
Following the procedure for the preparation of (1R,2S)-1-[(3,6-diethylpyrazin-2-yl)amino]-2,3-dihydro-1H-inden-2-ol but substituting 1,2,3,4-tetrahydronaphthalen-1-amine and making non-critical variations provided the title compound as a oil: 1H NMR (400 MHz, CDCl3) δ 7.81, 7.38, 7.19, 5.49, 4.56, 2.87, 2.69, 2.57, 2.12, 1.98, 1.91, 1.32; 13C NMR (100 MHz, CDCl3) δ 153.69, 151.42, 140.81, 138.70, 138.29, 129.85, 129.56, 129.18, 127.49, 126.58, 48.71, 30.07, 29.94, 28.56, 26.07, 20.42, 13.96, 11.16; HRMS (FAB) calcd for C18H23N3+H 282.1970, found 282.1975.

reactant | (1R,2S)-1-[(3,6-diethylpyrazin-2-yl)amino]-2,3-dihydro-1H-inden-2-ol | C(C)C=1C(=NC(=CN1)CC)N[C@H]1[C@H](CC2=CC=CC=C12)O | C17H21N3O
reactant | 1,2,3,4-tetrahydronaphthalen-1-amine | C1(CCCC2=CC=CC=C12)N | C10H13N
product | 3,6-diethyl-N-(1,2,3,4-tetrahydronaphthalen-1-yl)pyrazin-2-amine | C(C)C=1C(=NC(=CN1)CC)NC1CCCC2=CC=CC=C12 | C18H23N3
